US07399765B2
3-Chloro-6-imidazol-1-yl-pyridazine
A solution of 3,6-dichloropyridazine (Aldrich, 300 mg, 2.0 mmol), imidazole (Aldrich, 163 mg, 2.4 mmol), and diisopropylethylamine (620 mg, 4.8 mmol) in 1.5 mL 1,2-dichlorobenzene was heated in a sealed tube to 120° C. at 330 watts for 45 min in an Emry™ Creator microwave. The crude reaction mixture was purified by column chromatography (SiO2, 1% methanol-CH2Cl2) to give 135 mg of the title compound (0.75 mmol, 38% yield) as the major product. MS (DCl/NH3) m/z 181 (M+H)+.

reactant | 3,6-dichloropyridazine | 2.0 mmol, 300 mg | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | imidazole | 2.4 mmol, 163 mg | N1C=NC=C1 | C3H4N2
reactant | diisopropylethylamine | 4.8 mmol, 620 mg | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,2-dichlorobenzene | 1.5 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 3-Chloro-6-imidazol-1-yl-pyridazine | 0.75 mmol, 135 mg, 38% yield | ClC=1N=NC(=CC1)N1C=NC=C1 | C7H5ClN4
